US04096264
5-(p-acetamidophenylthio)2-amino pyridine
5.5 G. (0.25 mole) of 2-amino-5-iodopyridine, 5.02 g. (0.030 mole) of 4-acetamidothiophenol and 1.6 g. of sodium methoxide 800 mg. of copper under the conditions as in Example 2 (A) one obtains 5.8 g. of 5(p-acetamidophenyl) 5-(p-acetamidophenylthio)2-amino pyridine m.p. 178°-179° C.

reactant | 2-amino-5-iodopyridine | 0.25 mole | NC1=NC=C(C=C1)I | C5H5IN2
reactant | 4-acetamidothiophenol | 0.030 mole | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
reactant | sodium methoxide | 800 mg | C[O-].[Na+]
reactant | 5(p-acetamidophenyl) 5-(p-acetamidophenylthio)2-amino pyridine | C(C)(=O)NC1=CC=C(C=C1)C1(CC=C(N=C1)N)SC1=CC=C(C=C1)NC(C)=O | C21H22N4O2S
catalyst | copper | [Cu] | Cu
product | 5-(p-acetamidophenylthio)2-amino pyridine | C(C)(=O)NC1=CC=C(C=C1)SC=1C=CC(=NC1)N | C13H13N3OS
